US07592365B2
A solution of 1.549 g (6.322 mmol) of 2-bromo-1-(6-nitropyridin-3-yl)ethanone in 25 cm3 of chlorobenzene is added at a temperature in the region of 20° C. to a solution of 0.975 g (6.954 mmol) of hexamethylenetetraamine in 10 cm3 of chlorobenzene. After stirring for 1 hour at this temperature, the suspension is heated for 18 hours at 50° C. The reaction medium is then cooled to 5° C. and then diluted with 200 cm3 of ethyl ether. The precipitate thus obtained is filtered and washed with three times 50 cm3 of ethyl ether. The resulting ammonium salt is stirred in 20 cm3 of ethanol and then 8 cm3 of 37% hydrochloric acid are added at a temperature in the region of 20° C. The solution is then stirred for 16 hours at this temperature. The precipitate formed is filtered, washed with three times 50 cm3 of water, drained and dried to give 1.05 g of 2-amino-1-(6-nitropyridin-3-yl)ethanone in the form of a cream powder. ES+: m/z=182 (MH+).

reactant | 2-bromo-1-(6-nitropyridin-3-yl)ethanone | 6.322 mmol, 1.549 g | BrCC(=O)C=1C=NC(=CC1)[N+](=O)[O-] | C7H5BrN2O3
reactant | hexamethylenetetraamine | 6.954 mmol, 0.975 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | chlorobenzene | 25 cm3 | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 10 cm3 | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | 2-amino-1-(6-nitropyridin-3-yl)ethanone | 1.05 g | NCC(=O)C=1C=NC(=CC1)[N+](=O)[O-] | C7H7N3O3
